US05132309
Preparation of 8-[3,3-bis(4-fluorophenyl)-2-propenyl]-4-hydroxy-4-methyl-2-oxo-3-n-propyl-1-oxa-3,8-diazaspiro[4,5]decane
9.3 g of 3,3-bis(4-fluorophenyl)-2-propenyl bromide dissolved in 50 ml of acetone are portionwise added to a mixture containing 6.85 g of 4-hydroxy-4-methyl-2-oxo-3-n-propyl-1-oxa-3,8-diazaspiro[4,5]decane and 4.2 g of anhydrous potassium carbonate in 68 ml of anhydrous acetone at room temperature during 1 hour while stirring, then the reaction mixture is stirred at room temperature for an additional 1 hour. After filtering off the inorganic salts and evaporating the solvent under reduced pressure, the residue is taken up in benzene, washed with water, dried over anhydrous sodium sulfate and then the solution is evaporated to one tenth its volume under reduced pressure. The product is precipitated by adding n-hexane to the evaporation residue. The crystals are filtered off and dried to give the title compound in 86% yield, m.p.: 128°-129° C.

reactant | 3,3-bis(4-fluorophenyl)-2-propenyl bromide | 9.3 g | FC1=CC=C(C=C1)C(=CCBr)C1=CC=C(C=C1)F | C15H11BrF2
reactant | 4-hydroxy-4-methyl-2-oxo-3-n-propyl-1-oxa-3,8-diazaspiro[4,5]decane | 6.85 g | OC1(N(C(OC12CCNCC2)=O)CCC)C | C11H20N2O3
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 68 ml | CC(=O)C | C3H6O
product | 8-[3,3-bis(4-fluorophenyl)-2-propenyl]-4-hydroxy-4-methyl-2-oxo-3-n-propyl-1-oxa-3,8-diazaspiro[4,5]decane | 86% yield | FC1=CC=C(C=C1)C(=CCN1CCC2(C(N(C(O2)=O)CCC)(C)O)CC1)C1=CC=C(C=C1)F | C26H30F2N2O3
